US09284331B2
Step 11: 4-(6-fluoropyridin-3-yl)-5,6,9,10-tetrahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione.
94-11. A mixture of 4-(6-fluoropyridin-3-yl)-5,6,9,10,12,12a-hexahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione (32 mg, 0.098 mmol) and SeO2 (19 mg, 0.17 mmol) in pyridine (1.5 mL) was stirred at 160° C. for 30 min under microwave conditions. The reaction mixture was allowed to warm to rt and poured into saturated aqueous NaHCO3 solution. The mixture was extracted with AcOEt (3×). The combined organic layers were dried with sodium sulfate, filtered and the solvent was removed under reduced pressure. The crude product was dried under high vacuo overnight to yield the title compound as a beige solid (32 mg) which was used without further purification in the next step. UPLC-MS: MS 325.2 (M+H+); UPLC rt 0.65 min.

reactant | 4-(6-fluoropyridin-3-yl)-5,6,9,10,12,12a-hexahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione | 0.098 mmol, 32 mg | FC1=CC=C(C=N1)C1=CC=NC=2C3N(CCC12)C(CNC(C3)=O)=O | C17H15FN4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-(6-fluoropyridin-3-yl)-5,6,9,10-tetrahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione | 32 mg | FC1=CC=C(C=N1)C1=CC=NC=2C=3N(CCC12)C(CNC(C3)=O)=O | C17H13FN4O2
